US07282588B2
4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-indol-2-yl]benzaldehyde
Following the procedure for Intermediate 100 using 4-[4-bromo-1-(phenylsulfonyl)-1H-indol-2-yl]benzaldehyde and 1-(1-methylethyl)-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole provided the title compound. ESMS [M+H]+: 592.4.

reactant | 4-[4-bromo-1-(phenylsulfonyl)-1H-indol-2-yl]benzaldehyde | BrC1=C2C=C(N(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C21H14BrNO3S
reactant | 1-(1-methylethyl)-3-(4-nitrophenyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | CC(C)N1N=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C18H24BN3O4
product | 4-[4-[1-(1-methylethyl)-3-(4-nitrophenyl)-1H-pyrazol-4-yl]-1-(phenylsulfonyl)-1H-indol-2-yl]benzaldehyde | CC(C)N1N=C(C(=C1)C1=C2C=C(N(C2=CC=C1)S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=O)C=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C33H26N4O5S
